US07528147B2
But using 1.71 g of 5,6-dimethoxy-1-methyl-3-trimethylsilanylethynyl-1H-indole and 1.04 g of potassium fluoride in 70 ml of methanol. 1 g of 3-ethynyl-5,6-dimethoxy-1-methyl-1H-indole is thus obtained in the form of a solid, the characteristics of which are as follows:

reactant | 5,6-dimethoxy-1-methyl-3-trimethylsilanylethynyl-1H-indole | 1.71 g | COC=1C=C2C(=CN(C2=CC1OC)C)C#C[Si](C)(C)C | C16H21NO2Si
reactant | potassium fluoride | 1.04 g | [F-].[K+]
solvent | methanol | 70 ml | CO | CH4O
product | 3-ethynyl-5,6-dimethoxy-1-methyl-1H-indole | 1 g | C(#C)C1=CN(C2=CC(=C(C=C12)OC)OC)C | C13H13NO2
